US07923450B2
(6-Methanesulfonyl-8-phenyl-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
To a suspension of [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(8-phenyl-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl)-amine hydrochloride (75 mg, 0.17 mmol) in methylen chloride (2 mL) was added at room temperature NN,-diisoprpyl ethyl amine (33 mg, 0.25 mmol) and methanesulfonyl chloride (21.3 mg, 0.18 mmol). The reaction was stirred at room temperature over night. The solvent was evaporated under reduced pressure and the residue was purified by column chromatography on silica gel using dichloromethane/methanol (19:1 v/v) as eluent to yield the title compound (13 mg, 16%) as a yellow solid. MS ISP (m/e): 491.0 (100) [(M+H)+]. 1H NMR (CDCl3, 300 MHz): δ (ppm)=8.33 (s, 1H), 7.70 (s, 1H), 7.59 (s, 1H), 7.26-7.35 (m, 3H), 7.17 (d, 2H), 7.05 (d, 1H), 6.82 (s, 1H), 6.77 (d, 1H), 4.56 (d, 1H), 4.46 (d, 1H), 4.32 (t, 1H), 3.97 (dd, 1H), 3.43 (dd, 1H), 3.38 (s, 3H), 2.80 (s, 3H), 2.30 (s, 3H).

reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(8-phenyl-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl)-amine hydrochloride | 0.17 mmol, 75 mg | Cl.COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1N=CC2=C(N1)C(CNC2)C2=CC=CC=C2
reactant | ethyl amine | 0.25 mmol, 33 mg | C(C)N | C2H7N
reactant | methanesulfonyl chloride | 0.18 mmol, 21.3 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylen chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | (6-Methanesulfonyl-8-phenyl-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | 13 mg, 16% | CS(=O)(=O)N1CC2=C(N=C(N=C2)NC2=CC(=C(C=C2)N2C=NC(=C2)C)OC)C(C1)C1=CC=CC=C1 | C25H26N6O3S
